US04229443
B. 4-(3'-azidopropyl)-piperidine
Sodium azide (1 g) was added to a mixture of 4-(3'-bromopropyl)-piperidine hydrobromide (2 g), water (7 ml) and methanol (7 ml). The pH of the mixture was adjusted to 6.3, and the resulting solution was refluxed for 2 hours. After cooling, methanol was evaporated, 30 percent aqueous sodium hydroxide was added and the mixture was extracted several times with ether. The ether extracts were dried and evaporated to leave the desired compound as an oil. The IR-spectrum (CHCl3) showed strong bands at 2925, 2100 and 1450 cm-1.

reactant | Sodium azide | 1 g | [N-]=[N+]=[N-].[Na+]
reactant | 4-(3'-bromopropyl)-piperidine hydrobromide | 2 g | Br.BrCCCC1CCNCC1
reactant | water | 7 ml | O | H2O
solvent | methanol | 7 ml | CO | CH4O
product | 4-(3'-azidopropyl)-piperidine | N(=[N+]=[N-])CCCC1CCNCC1 | C8H16N4
